US05318964
2.464 g of 1,2-dibenzyl 1-tert.butyl 4-methyl-1-[(1,2-dimethyl-3,5-dioxo-1,2,4-triazolidin-4-yl)methyl]-1,1,2(R)-pentanetricarboxylate were dissolved in 40 ml of methanol containing 0.25 g of 10% palladium-on-charcoal catalyst. The mixture was hydrogenated for 2 hours, the catalyst was removed by filtration and the solvent evaporated to give 1-(tert.butoxycarbonyl)-4-methyl-1-[(1,2-dimethyl-3,5-dioxo-1,2,4-triazolidin-4-yl)methyl]-1,2(R)-pentanedicarboxyic acid in the form of a colorless gum. The gum was dissolved in 60 ml of toluene containing 0.43 ml of N-methylmorpholine and the mixture was heated under reflux for 1 hour. The solution was washed with 5% aqueous citric acid solution, water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated to give 1.422 g of 2(R)-[1(R or S)-(tert.butoxycarbonyl)-2-(1,2-dimethyl-3,5-dioxo-1,2,4-triazolidin-4-yl)ethyl]-4-methylvaleric acid in the form of a waxy solid as an approximately 6:1 mixture of diastereoisomer 1 and diastereoisomer 2.

reactant | 1,2-dibenzyl 1-tert.butyl 4-methyl-1-[(1,2-dimethyl-3,5-dioxo-1,2,4-triazolidin-4-yl)methyl]-1,1,2(R)-pentanetricarboxylate | 2.464 g | CC(C[C@H](C(C(=O)OCC1=CC=CC=C1)(C(=O)OC(C)(C)C)CN1C(N(N(C1=O)C)C)=O)C(=O)OCC1=CC=CC=C1)C | C32H41N3O8
solvent | methanol | 40 ml, 0.25 g | CO | CH4O
catalyst | palladium-on-charcoal | [Pd] | Pd
product | 1-(tert.butoxycarbonyl)-4-methyl-1-[(1,2-dimethyl-3,5-dioxo-1,2,4-triazolidin-4-yl)methyl]-1,2(R)-pentanedicarboxyic acid | C(C)(C)(C)OC(=O)C([C@@H](CC(C)C)C(=O)O)(C(=O)O)CN1C(N(N(C1=O)C)C)=O | C18H29N3O8
